US07179912B2
2-((Hydroxyimino)methyl)-5-morpholin-4-yl-phenol
A solution of 2-hydroxy-4-morpholin-4-yl-ben zaldehyde (0.135 g, 0.65 mmol) in pyridine (5 mL) was treated with hydroxylamine hydrochloride (45 mg, 0.65 mmol) and stirred for 30 min at room temperature. The reaction mixture was concentrated in vacuo and the residue was partitioned between EtOAc and 5% sodium bicarbonate. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford the product as a pale yellow solid (51 mg, 35%).

reactant | 2-hydroxy-4-morpholin-4-yl-ben zaldehyde | 0.65 mmol, 0.135 g | OC1=C(C=O)C=CC(=C1)N1CCOCC1 | C11H13NO3
reactant | hydroxylamine hydrochloride | 0.65 mmol, 45 mg | Cl.NO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-((Hydroxyimino)methyl)-5-morpholin-4-yl-phenol | 51 mg, 35% | ON=CC1=C(C=C(C=C1)N1CCOCC1)O | C11H14N2O3
